US07964608B2
4-Chloro-8-propyl-quinoline-3-carboxylic acid ethyl ester (250 mg, 0.9 mmol) was treated with cyclopentylamine following general procedure B to afford 4-cyclopentylamino-8-propyl-quinoline-3-carboxylic acid ethyl ester (260 mg). Thus obtained amino-ester was hydrolyzed to the corresponding acid using general procedure D and then transformed into the corresponding ethylamide (170 mg) following general procedure E.

reactant | 4-Chloro-8-propyl-quinoline-3-carboxylic acid ethyl ester | 0.9 mmol, 250 mg | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1Cl)CCC | C15H16ClNO2
reactant | cyclopentylamine | C1(CCCC1)N | C5H11N
product | 4-cyclopentylamino-8-propyl-quinoline-3-carboxylic acid ethyl ester | 260 mg | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC1CCCC1)CCC | C20H26N2O2
